US04968678
Ethyl 4-hydroxy-2-pyridinecarboxylate hydrochloride (27.2 g, 0.13 mol) was hydrogenated in 200 ml of ethanol with 15.5 g of 5% by weight rhodium on alumina at 100° C. and 1000 p.s.i. for 10 hours. The mixture was cooled, filtered and concentrated under vacuum. To the residue was added 250 ml of methylene chloride, 50 ml of ethanol and 25.2 g (0.20 mol, 34.0 ml) of Hunig's base, followed by the dropwise addition of 28.4 g (0.13 mol, 29.9 ml) of di-t-butyldicarbonate over a period of thirty minutes. After one hour the mixture was concentrated under vacuum, and the residue was dissolved in methylene chloride and washed twice with 10% by weight aqueous sodium bisulfate. The combined aqueous washes were extracted once with methylene chloride and once with diethyl ether. The organic extracts were combined, dried over anhydrous sodium sulfate, filtered and concentrated under vacuum. High pressure liquid chromatography of the residue provided 21.3 g of ethyl cis-4-hydroxy-N-t-butoxycarbonyl-2-piperidinecarboxylate as a colorless oil.

reactant | Ethyl 4-hydroxy-2-pyridinecarboxylate hydrochloride | 0.13 mol, 27.2 g | Cl.OC1=CC(=NC=C1)C(=O)OCC
reactant | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
reactant | Hunig's base | 0.20 mol, 34.0 ml, 25.2 g | CCN(C(C)C)C(C)C | C8H19N
reactant | di-t-butyldicarbonate | 0.13 mol, 29.9 ml, 28.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | rhodium on alumina | [Rh] | Rh
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl cis-4-hydroxy-N-t-butoxycarbonyl-2-piperidinecarboxylate | 21.3 g | O[C@@H]1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C13H23NO5
